US07829572B2
Methyl 4-amino-2-chloronicotinate (21.0 g, 112.9 mmol) and LiOH (10.3 g, 247.5 mmol) was taken in a mixture of dioxane:MeOH:water (3:2:1, ml) and the reaction mixture was heated to 85° C. for 2 hours. The solvent was evaporated under reduced pressure, the residue was dissolved in minimum volume of water and acidified (up to pH 4) with saturated citric acid. The aqueous solution was concentrated until precipitation just started. The mixture was allowed to stand overnight at 10° C. for complete precipitation. The resultant white solid was collected by filtration and recrystallized from isopropyl alcohol-hexane to afford 4-amino-2-chloronicotinic acid (13 g, 66% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.59 (d, 1H), 6.47 (d, 1H), 6.37 (brs, 2H).

reactant | Methyl 4-amino-2-chloronicotinate | 112.9 mmol, 21.0 g | NC1=CC=NC(=C1C(=O)OC)Cl | C7H7ClN2O2
reactant | LiOH | 247.5 mmol, 10.3 g | [Li+].[OH-]
solvent | dioxane MeOH water | O1CCOCC1.CO.O
product | 4-amino-2-chloronicotinic acid | 13 g, 66% yield | NC1=CC=NC(=C1C(=O)O)Cl | C6H5ClN2O2
